US06833378B2
2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(S)-(4-ethyl-2-oxo-oxazolidin-3-yl)-6-methyl-nicotinonitrile
The title compound was prepared by reacting with 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-propylamino)-6-methyl-nicotinic acid with triphosgene/NEt3 in THF. 1H NMR(CDCl3) d 7.18(s,1H), 7.06(s,2H), 5.00(m,1H), 4.64(t,1H), 4.23(dd,1H), 2.339s,3H), 2.08(s,6H), 1.5-1.8(m,2H), 0.949t,3H) ppm.

reactant | 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-propylamino)-6-methyl-nicotinic acid | ClC1=CC(=C(OC2=C(C(=O)O)C(=CC(=N2)C)NC(CC)CO)C(=C1)C)C | C19H23ClN2O4
reactant | triphosgene NEt3 | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl.CCN(CC)CC
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(S)-(4-ethyl-2-oxo-oxazolidin-3-yl)-6-methyl-nicotinonitrile | ClC1=CC(=C(OC2=C(C#N)C(=CC(=N2)C)N2C(OC[C@@H]2CC)=O)C(=C1)C)C | C20H20ClN3O3
